US09382237B2
5-amino-3-(pyridin-3-ylamino)-1H-pyrazole-4-carboxamide (100 mg) was then suspended in EtOH (3 mL) 2-Pyrrolecarbaldehyde (1 eq.) and piperidine (1 drop) were added. Stirred at reflux until intermediate was absent (HPLC). After reaction was complete (18 hrs) it was brought to room temperature and filtered to obtain 5-(((1H-pyrrol-2-yl)methylene)amino)-3-(pyridin-3-ylamino)-1H-pyrazole-4-carboxamide as a yellow powder. Powder was washed with EtOH. Product was allowed to dry under vacuum for 1 hr.

reactant | 5-amino-3-(pyridin-3-ylamino)-1H-pyrazole-4-carboxamide | 100 mg | NC1=C(C(=NN1)NC=1C=NC=CC1)C(=O)N | C9H10N6O
reactant | EtOH | 3 mL, 1 eq. | CCO | C2H6O
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
product | 5-(((1H-pyrrol-2-yl)methylene)amino)-3-(pyridin-3-ylamino)-1H-pyrazole-4-carboxamide | N1C(=CC=C1)C=NC1=C(C(=NN1)NC=1C=NC=CC1)C(=O)N | C14H13N7O
